US04927452
2,6-Difluorophenylsulphonylamide in an amount of 9.65 g and 6.5 g of potassium cyanate in 100 ml of ethanol are refluxed for 3 hours. After dilution with water and filtration while hot the solution is acidified with 5 ml of conc. hydrochloric acid. The desired N-(2,6-difluorophenylsulphonyl)urea is obtained in a yield of 10.0 g; melting point 198° C. (decomp.)

reactant | 2,6-Difluorophenylsulphonylamide | FC1=C(C(=CC=C1)F)S(=O)(=O)[NH-]
reactant | potassium cyanate | 6.5 g | [O-]C#N.[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(2,6-difluorophenylsulphonyl)urea | FC1=C(C(=CC=C1)F)S(=O)(=O)NC(=O)N | C7H6F2N2O3S
